US07723329B2
(2-{[1-(3-chlorobenzyl)-5-fluoro-3-(1-naphthylsulfonyl)-1H-indazol-7-yl]oxy}ethyl)methylamine Hydrochloride
A mixture of 1-(3-chloro-benzyl)-7-(2-chloro-ethoxy)-5-fluoro-3-(naphthalene-1-sulfonyl)-1H-indazole (0.075 g, 0.14 mmoles) and methylamine (0.56 mmoles) in DMSO (1 mL) was stirred under nitrogen at 100° C. for 4 hours. Mixture was cooled to room temperature, diluted with water, extracted with EtOAc, washed with water (2×), brine (1×), dried over Na2SO4, and concentrated under vacuum. Compound was purified by flash chromatography using as eluent 5% CH3OH/EtOAc. The purified compound was dissolved in methanol, 1M HCl in ether (0.1 mL, 0.1 mmoles) was added, and compound was dried to afford the title compound as the HCl salt.

reactant | 1-(3-chloro-benzyl)-7-(2-chloro-ethoxy)-5-fluoro-3-(naphthalene-1-sulfonyl)-1H-indazole | 0.14 mmoles, 0.075 g | ClC=1C=C(CN2N=C(C3=CC(=CC(=C23)OCCCl)F)S(=O)(=O)C2=CC=CC3=CC=CC=C23)C=CC1 | C26H19Cl2FN2O3S
reactant | methylamine | 0.56 mmoles | CN | CH5N
reactant | HCl | 1M | Cl | ClH
reactant | ether | 0.1 mmoles, 0.1 mL | CCOCC | C4H10O
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | (2-{[1-(3-chlorobenzyl)-5-fluoro-3-(1-naphthylsulfonyl)-1H-indazol-7-yl]oxy}ethyl)methylamine Hydrochloride | Cl.ClC=1C=C(CN2N=C(C3=CC(=CC(=C23)OCCNC)F)S(=O)(=O)C2=CC=CC3=CC=CC=C23)C=CC1 | InChI=1S/C27H23ClFN3O3S.ClH/c1-30-12-13-35-24-16-21(29)15-23-26(24)32(17-18-6-4-9-20(28)14-18)31-27(23)36(33,34)25-11-5-8-19-7-2-3-10-22(19)25;/h2-11,14-16,30H,12-13,17H2,1H3;1H
